US04892914
Step (1): Preparation of dichlorotitanium bis(dimethylamide)
The complex is prepared by the disproportionation reaction of titanium tetrakis(dimethylamide) with titanium tetrachloride in toluene. In a 250 ml Schlenk containing 75 ml of toluene is added, 0.43 ml (3.88 millimole) of titanium tetrachloride and 0.95 g (3.88 mmole of titanium tetrakis(dimethylamide). The mixture is refluxed one hour to give a brown solution. All volatiles are removed under vacuum and the deep brown powder is washed twice with 25 ml portions of hexane followed by vacuum drying of the powder. The complex is transferred to a 500 ml Schlenk for the reaction described in Step (3) of Example 1-F.

reactant | titanium tetrakis(dimethylamide) | C[N-]C.C[N-]C.C[N-]C.C[N-]C.[Ti+4]
reactant | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
reactant | titanium tetrachloride | 3.88 millimole, 0.43 ml | [Ti](Cl)(Cl)(Cl)Cl
reactant | titanium tetrakis(dimethylamide) | 3.88 mmole | C[N-]C.C[N-]C.C[N-]C.C[N-]C.[Ti+4]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | dichlorotitanium bis(dimethylamide) | C[N-]C.C[N-]C.Cl[Ti+2]Cl | InChI=1S/2C2H6N.2ClH.Ti/c2*1-3-2;;;/h2*1-2H3;2*1H;/q2*-1;;;+4/p-2
